US04025538
Preparation of 4-Chloro-3,5-dinitro-o-toluenesulfonamide
4-Chloro-3,5-dinitro-o-toluenesulfonyl chloride (10 grams, 0.0318 mole) is dissolved in 150 ml. of acetone and chilled to -15° C. Ammonia (1.08 grams, 0.064 mole) is condensed and then vaporized into the acetone solution. When the addition is complete, the reaction mixture is poured into an equal volume of water and the precipitated solid collected. The crude yield of white solid is 6.8 grams with melting point 205° C. to 215° C.

reactant | 4-Chloro-3,5-dinitro-o-toluenesulfonyl chloride | 0.0318 mole, 10 grams | ClC=1C(=C(C(=CC1[N+](=O)[O-])C)S(=O)(=O)Cl)[N+](=O)[O-] | C7H4Cl2N2O6S
reactant | acetone | CC(=O)C | C3H6O
reactant | Ammonia | 0.064 mole, 1.08 grams | N | H3N
solvent | water | O | H2O
product | 4-Chloro-3,5-dinitro-o-toluenesulfonamide | ClC=1C(=C(C(=CC1[N+](=O)[O-])C)S(=O)(=O)N)[N+](=O)[O-] | C7H6ClN3O6S
